US04568687
3,4-Dichloro-N-[4-(1H-imidazol-1-yl)butyl]benzamide
A solution of 1.05 g. of 3,4-dichlorobenzoyl chloride in 25 ml. of methylene chloride was added to a stirred solution of 1.06 g. of 1H-imidazole-1-butanamine dihydrochloride in 15 ml. of 1N sodium hydroxide. The mixture was stirred for 18 hours, methylene chloride was added and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The residue was washed onto a filter with diethyl ether, giving the desired product, m.p. 86°-88° C.

reactant | 3,4-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | 1H-imidazole-1-butanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCCN
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-N-[4-(1H-imidazol-1-yl)butyl]benzamide | ClC=1C=C(C(=O)NCCCCN2C=NC=C2)C=CC1Cl | C14H15Cl2N3O
